US04808581
N,N-Dimethyl-3-(2-methyl-1H-imidazol-4-yl)propanamide hydrochloride
A solution of (E)-N,N-dimethyl-3-(2-methyl-1H-imidazol-4-yl)-2-propenamide (340 mg) in methanol (10 ml) and HCl-saturated ethanol (2 ml) was added to a previously hydrogen-saturated suspension of 10% palladium on charcoal (50% paste with water) (35 mg) in methanol (10 ml) and the resulting suspension stirred at room temperature under hydrogen for 4 h. The mixture was filtered, concentrated in vacuo to ca. 5 ml and ethyl acetate (ca. 40 ml) was added, precipitating the title compound (275 mg) as white flakes, t.l.c. (System A 89:10:1), Rf 0.14. Addition of further ethyl acetate (40 ml) to the mother liquors precipitated further title compound (31 mg).

reactant | (E)-N,N-dimethyl-3-(2-methyl-1H-imidazol-4-yl)-2-propenamide | 340 mg | CN(C(\C=C\C=1N=C(NC1)C)=O)C | C9H13N3O
reactant | hydrogen | [H][H] | H2
reactant | HCl | 2 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on charcoal | 35 mg | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | N,N-Dimethyl-3-(2-methyl-1H-imidazol-4-yl)propanamide hydrochloride | Cl.CN(C(CCC=1N=C(NC1)C)=O)C | InChI=1S/C9H15N3O.ClH/c1-7-10-6-8(11-7)4-5-9(13)12(2)3;/h6H,4-5H2,1-3H3,(H,10,11);1H
